Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___
 
Chief Complaint:
hematemesis
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with hx of TBI with chronic cognitive impairments, htn, 
NIDDM2, advanced oropharyngeal cancer (followed at ___, not 
yet started rx) presenting in transfer from rehab for 
hematemesis. Per transfer notes from rehab, pt noted to have 
"vomiting coffee brown, upper chest congestion" on day of 
presentation. He was en route by ___ to ___ ED, but had active 
hematemesis and ambulance diverted to closer ED. 

Brief history was obtained from sister, ___ (HCP) at bedside 
on pt's arrival to the floor. She reports that his cancer was 
diagnosed in ___, and over the past 3 months she has 
been helping her brother to pursue care, including a second 
opinion regarding surgical planning at ___, navigating 
insurance, and meeting with radiation oncologists. It was 
apparently noted that he had increased edema of his L face over 
the past 2 weeks; in consultation with a radiation oncologist at 
___ on 111___, CT scan and radiation therapy had been 
recommended, but pt had declined (in setting of cognitive 
impairments). 

In the ___ ED:
HR 113, BP 140/55, 90% by nonrebreather
Active hematemesis

Initially planned for intubation; family at bedside and, 
together with social work, decision was made to transition to 
CMO.
Pt transferred to floor on morphine gtt

On arrival to floor, pt is not interactive. Sister is at 
bedside.
ROS: Unable to complete ___ above

 
Past Medical History:
Per pt's sister:
Advanced oropharyngeal ca as per HPI
Htn
NIDDM2
TBI in his ___ ___ MVA, with memory and other cognitive deficits
 
Social History:
___
Family History:
Mother with htn and CVA. Father is ___ and recently broke his 
hip. Pt has 4 siblings, younger brother ___ lives in ___.
 
Physical Exam:
Admission exam:
VS 102.3 Axillary 110 / 63 147 30 86 FM  
Full exam deferred after confirmation of CMO status
Gen: Not interactive, diaphoretic, tachypneic male lying in bed
HEENT: Shovel mask in place, discolored mass at L lateral aspect 
of tongue
CV: Tachycardic, regular, no m/r/g
Lungs: Coarse breath sounds throughout anteriorly
Abd: PEG tube in place, with dressing c/d/I, abdomen is 
nondistended, soft
GU: No foley
Ext: Warm and well perfused
Neuro: Does not respond to verbal or tactile stimuli

Discharge exam: 
expired
 
Pertinent Results:
___ 01:24PM   ___ PO2-63* PCO2-78* PH-7.23* TOTAL 
CO2-34* BASE XS-1 INTUBATED-NOT INTUBA
___ 01:24PM   LACTATE-2.1*
___ 01:24PM   O2 SAT-85
___ 01:14PM   GLUCOSE-163* UREA N-20 CREAT-0.6 SODIUM-145 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-28 ANION GAP-16
___ 01:14PM   estGFR-Using this
___ 01:14PM   CALCIUM-9.9 PHOSPHATE-5.3* MAGNESIUM-2.3
___ 01:14PM   WBC-15.4*# RBC-3.90*# HGB-12.0*# HCT-37.5* 
MCV-96# MCH-30.8 MCHC-32.0 RDW-14.6 RDWSD-51.3*
___ 01:14PM   NEUTS-85* BANDS-0 LYMPHS-6* MONOS-8 EOS-0 
BASOS-0 ___ METAS-1* MYELOS-0 AbsNeut-13.09* AbsLymp-0.92* 
AbsMono-1.23* AbsEos-0.00* AbsBaso-0.00*
___ 01:14PM   HYPOCHROM-OCCASIONAL ANISOCYT-OCCASIONAL 
POIKILOCY-NORMAL MACROCYT-OCCASIONAL MICROCYT-NORMAL 
POLYCHROM-OCCASIONAL
___ 01:14PM   PLT SMR-NORMAL PLT COUNT-326
___ 01:14PM   ___ PTT-40.5* ___
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with hx of TBI with chronic cognitive 
impairments, htn, NIDDM2, advanced oropharyngeal cancer 
(followed at ___, not yet started treatment) presenting as 
transfer from rehab for hematemesis, transitioned to comfort 
measures only after discussion with family. There was an unclear 
source of bleeding, but no further diagnostics indicated in 
setting of above described goals of care. His pain and tachypnea 
were controlled with IV morphine. He passed away with his family 
at the bedside at 10:30am. PCP was notified. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
oropharyngeal cancer
hematemasis
 
Discharge Condition:
expired
 
Discharge Instructions:
none
 
Followup Instructions:
___